US04062978
4-(p-Iso-butyrylphenyl)-2-pentanone
As in Example 1 except using 4-phenyl-2-pentanone instead of benzyl acetone, and iso butyryl chloride instead of benzoyl chloride, b.p. 130 - 134 (0.4 mm).

reactant | 4-phenyl-2-pentanone | C1(=CC=CC=C1)C(CC(C)=O)C | C11H14O
reactant | iso butyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 4-(p-Iso-butyrylphenyl)-2-pentanone | C(C(C)C)(=O)C1=CC=C(C=C1)C(CC(C)=O)C | C15H20O2
